### PR TITLE
[Merged by Bors] - feat(MvPowerSeries.Order): order of multivariate power series

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 1]
```diff
@@ -0,0 +1,525 @@
...
+  simp only [Finsupp.coe_add, Finsupp.coe_tsub, Pi.add_apply, Pi.sub_apply,
+    Finsupp.equivFunOnFinite_symm_apply_toFun, Function.const_apply]
+  rw [add_comm]
+  apply Nat.sub_add_cancel
+  apply le_trans (le_weight w (hw x) d)
+  simpa only [Set.mem_setOf_eq] using hd
+
+theorem ne_zero_iff_exists_coeff_ne_zero_of_weight
+    (f : MvPowerSeries σ R):
+    f ≠ 0 ↔ (∃ n : ℕ, ∃ d : σ →₀ ℕ, weight w d = n ∧ coeff R d f ≠ 0) := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:165]: Looking at the name and the statement: how about
```suggestion
theorem ne_zero_iff_exists_coeff_ne_zero_and_weight
    (f : MvPowerSeries σ R):
    f ≠ 0 ↔ (∃ n : ℕ, ∃ d : σ →₀ ℕ, coeff R d f ≠ 0 ∧ weight w d = n) := by
```

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 2]
```diff
@@ -0,0 +1,525 @@
...
+    f.weightedOrder w ≤ weight w d := by
+  classical
+  rw [weightedOrder, dif_neg]
+  · simp only [ne_eq, Nat.cast_le, Nat.find_le_iff]
+    exact ⟨weight w d, le_rfl, d, rfl, h⟩
+  · exact (f.ne_zero_iff_exists_coeff_ne_zero_of_weight w).mpr ⟨weight w d, d, rfl, h⟩
+
+/-- The `n`th coefficient of a formal power series is `0` if `n` is strictly
+smaller than the order of the power series.-/
+theorem coeff_of_lt_weightedOrder {d : σ →₀ ℕ} (h : ↑(weight w d) < f.weightedOrder w) :
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:214]:
```suggestion
theorem coeff_eq_zero_of_lt_weightedOrder {d : σ →₀ ℕ} (h : ↑(weight w d) < f.weightedOrder w) :
```

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 3]
```diff
@@ -0,0 +1,525 @@
...
+
+/-- The order of the monomial `a*X^n` is `n` if `a ≠ 0`.-/
+theorem weightedOrder_monomial_of_ne_zero (d : σ →₀ ℕ) (a : R) (h : a ≠ 0) :
+    weightedOrder w (monomial R d a) = weight w d := by
+  classical
+  rw [weightedOrder_monomial, if_neg h]
+
+
+/-- The order of the sum of two formal power series is at least the minimum of their orders.-/
+theorem le_weightedOrder_add (f g : MvPowerSeries σ R) :
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:276]:
```suggestion
theorem min_le_weightedOrder_add (f g : MvPowerSeries σ R) :
```
or maybe
```suggestion
theorem min_weightedOrder_le_add (f g : MvPowerSeries σ R) :
```

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 4]
```diff
@@ -0,0 +1,525 @@
...
+  · simp only [le_inf_iff, weightedOrder_add_of_weightedOrder_lt.aux w H₁]
+    exact ⟨le_rfl, le_of_lt H₁⟩
+  · by_cases H₂ : g.weightedOrder w < f.weightedOrder w
+    · simp only [add_comm f g, le_inf_iff, weightedOrder_add_of_weightedOrder_lt.aux w H₂]
+      exact ⟨le_of_lt H₂, le_rfl⟩
+    · exact absurd (le_antisymm (not_lt.1 H₂) (not_lt.1 H₁)) h
+
+/-- The weighted_order of the product of two formal power series
+ is at least the sum of their orders.-/
+theorem weightedOrder_mul_ge [DecidableEq σ] (f g : MvPowerSeries σ R) :
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:316]: As with the comment on the other PR: please state the name with `le`
```suggestion
theorem add_weightedOrder_le_weightedOrder_mul [DecidableEq σ] (f g : MvPowerSeries σ R) :
```
or
```suggestion
theorem le_weightedOrder_mul [DecidableEq σ] (f g : MvPowerSeries σ R) :
```
The current name could be an alias.

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 5]
```diff
@@ -0,0 +1,525 @@
...
+/-- The order of the monomial `a*X^n` is `n` if `a ≠ 0`.-/
+theorem order_monomial_of_ne_zero (d : σ →₀ ℕ) {a : R} (h : a ≠ 0) :
+    order (monomial R d a) = degree d := by
+  rw [degree_eq_weight_one]
+  exact weightedOrder_monomial_of_ne_zero _ d a h
+
+
+/-- The order of the sum of two formal power series
+ is at least the minimum of their orders.-/
+theorem le_order_add (f g : MvPowerSeries σ R) :
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:451]: See comment above.

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 6]
```diff
@@ -0,0 +1,525 @@
...
+
+/-- The order of the sum of two formal power series
+ is the minimum of their orders if their orders differ.-/
+theorem order_add_of_order_ne {f g : MvPowerSeries σ R} (h : f.order ≠ g.order) :
+    order (f + g) = order f ⊓ order g :=
+  weightedOrder_add_of_weightedOrder_ne _ h
+
+/-- The order of the product of two formal power series
+ is at least the sum of their orders.-/
+theorem order_mul_ge [DecidableEq σ] (f g : MvPowerSeries σ R) : f.order + g.order ≤ order (f * g) :=
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:463]: See comment above.

File: Mathlib/RingTheory/MvPowerSeries/Order.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Order.lean:276]: I chose the second suggestion.

File: Mathlib/RingTheory/MvPowerSeries/Order.lean (hunk 4 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Order.lean:316]: I chose the second one.

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Order.lean]: Also : I added the initial name as an alias, and did a similar modification for the already existing `PowerSeries.order_mul_ge`

File: Mathlib/RingTheory/HahnSeries/Addition.lean [hunk 7]
```diff
@@ -150,7 +150,7 @@ theorem min_orderTop_le_orderTop_add {Γ} [LinearOrder Γ] {x y : HahnSeries Γ
     WithTop.coe_le_coe]
   exact HahnSeries.min_le_min_add hx hy hxy
 
-theorem min_order_le_order_add {Γ} [Zero Γ] [LinearOrder Γ] {x y : HahnSeries Γ R}
+theorem min_order_min_order_le_add {Γ} [Zero Γ] [LinearOrder Γ] {x y : HahnSeries Γ R}
```
Comment (mariainesdff) [inline Mathlib/RingTheory/HahnSeries/Addition.lean:153]: Should this be called `min_order_le_add`?

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/HahnSeries/Addition.lean:153]: It looks like it is a typo, it was docs#HahnSeries.min_order_le_order_add

Comment (mariainesdff) [reply Mathlib/RingTheory/HahnSeries/Addition.lean:153]: OK, I will restore it, thanks!

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 8]
```diff
@@ -0,0 +1,514 @@
...
+
+open scoped BigOperators
+
+variable {σ R : Type*} [Semiring R]
+
+section WeightedOrder
+
+variable (w : σ → ℕ) (f : MvPowerSeries σ R)
+
+theorem _root_.Finsupp.finite_of_weight_le [Finite σ] (hw : ∀ x, w x ≠ 0) (n : ℕ) :
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:130]: I guess this can move close to the def'n of weight?

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 9]
```diff
@@ -0,0 +1,514 @@
...
+  use Finsupp.equivFunOnFinite.symm (Function.const σ n) - d
+  ext x
+  simp only [Finsupp.coe_add, Finsupp.coe_tsub, Pi.add_apply, Pi.sub_apply,
+    Finsupp.equivFunOnFinite_symm_apply_toFun, Function.const_apply]
+  rw [add_comm]
+  apply Nat.sub_add_cancel
+  apply le_trans (le_weight w (hw x) d)
+  simpa only [Set.mem_setOf_eq] using hd
+
+theorem ne_zero_iff_exists_coeff_ne_zero_and_weight
```
Comment (jcommelin) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:149]: Idem?

File: Mathlib/RingTheory/MvPowerSeries/Order.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Order.lean:130]: I move this theorem to the one that defines `Finsupp.weight`. (That forces me to add an `import`, though.)

File: Mathlib/RingTheory/MvPowerSeries/Order.lean (hunk 9 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Order.lean:150]: Yes.

**Comment by AntoineChambert-Loir** [comment]
bot fix style

File: Mathlib/RingTheory/HahnSeries/PowerSeries.lean [hunk 10]
```diff
@@ -18,6 +18,11 @@ we get the more familiar semiring of formal power series with coefficients in `R
   * `toPowerSeries` the isomorphism from `HahnSeries ℕ R` to `PowerSeries R`.
   * `ofPowerSeries` the inverse, casting a `PowerSeries R` to a `HahnSeries ℕ R`.
 
+## Instances
+  * For `Finite σ`, the instance `NoZeroDivisors (HahnSeries (σ →₀ ℕ) R)`,
+  deduced from the case of `MvPowerSeries`
+  The case of `HahnSeries ℕ R` is taken care of by `instNoZeroDivisors`.
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/HahnSeries/PowerSeries.lean:24]: Please qualify `instNoZeroDivisors`

File: Mathlib/Data/Finsupp/Weight.lean [hunk 11]
```diff
@@ -39,6 +40,9 @@ for `OrderedAddCommMonoid M`, when `f s ≠ 0` and all `w i` are nonnegative.
 - `Finsupp.weight_eq_zero_iff_eq_zero` says that `f.weight w = 0` iff
 `f = 0` for `NonTorsion Weight w` and `CanonicallyOrderedAddCommMonoid M`.
 
+-- For `w : σ → ℕ` and `Finite σ`, `Finsupp.finite_of_nat_weight_le` proves that
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Finsupp/Weight.lean:43]: The double dash looks a little off here. I suggest you match the list above

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 12]
```diff
@@ -154,6 +157,10 @@ theorem coeff_comp_monomial (n : σ →₀ ℕ) : (coeff R n).comp (monomial R n
 theorem coeff_zero (n : σ →₀ ℕ) : coeff R n (0 : MvPowerSeries σ R) = 0 :=
   rfl
 
+theorem ne_zero_iff_exists_coeff_ne_zero (f : MvPowerSeries σ R) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:160]: Do you want to also add the `f = 0` version? (Then this one could probably be `by simpa using f.eq_zero_….not`

File: Mathlib/RingTheory/PowerSeries/Order.lean [hunk 13]
```diff
@@ -145,7 +145,7 @@ theorem order_eq {φ : R⟦X⟧} {n : PartENat} :
 
 /-- The order of the sum of two formal power series
  is at least the minimum of their orders. -/
-theorem le_order_add (φ ψ : R⟦X⟧) : min (order φ) (order ψ) ≤ order (φ + ψ) := by
+theorem min_order_le_order_add (φ ψ : R⟦X⟧) : min (order φ) (order ψ) ≤ order (φ + ψ) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/PowerSeries/Order.lean:148]: When renaming results, please add the deprecated alias

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 14]
```diff
@@ -0,0 +1,488 @@
...
+
+- `MvPowerSeries.weightedHomogeneousComponent`, `MvPowerSeries.homogeneousComponent`: the power
+series which is the sum of all monomials of given weighted degree, resp. degree.
+
+NOTE:
+Under `Finite σ`, one can use `Finsupp.finite_of_degree_le` and `Finsupp.finite_of_weight_le` to
+show that they have finite support, hence correspond to `MvPolynomial`.
+
+However, when `σ` is finite, this is not necessarily an `MvPolynomial`.
+(For example : the homogeneous components of degree 1 of the multivariate power
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:109]:
```suggestion
(For example: the homogeneous components of degree 1 of the multivariate power
```

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 15]
```diff
@@ -0,0 +1,488 @@
...
+open scoped BigOperators
+
+variable {σ R : Type*} [Semiring R]
+
+section WeightedOrder
+
+variable (w : σ → ℕ) (f : MvPowerSeries σ R)
+
+theorem ne_zero_iff_exists_coeff_ne_zero_and_weight
+    (f : MvPowerSeries σ R):
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:131]: Space before colon in code, but note that this is also in `variable` above

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 16]
```diff
@@ -0,0 +1,488 @@
...
+
+open scoped BigOperators
+
+variable {σ R : Type*} [Semiring R]
+
+section WeightedOrder
+
+variable (w : σ → ℕ) (f : MvPowerSeries σ R)
+
+theorem ne_zero_iff_exists_coeff_ne_zero_and_weight
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:130]: Add the `eq_zero` variant?

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 17]
```diff
@@ -0,0 +1,488 @@
...
+
+-/
+
+namespace MvPowerSeries
+
+noncomputable section
+
+open ENat WithTop Finsupp
+
+open scoped BigOperators
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:122]: I don't think this is needed anymore

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 18]
```diff
@@ -0,0 +1,488 @@
...
+/-- The `0` power series is the unique power series with infinite order.-/
+@[simp]
+theorem weightedOrder_eq_top_iff {f : MvPowerSeries σ R} :
+    f.weightedOrder w = ⊤ ↔ f = 0 := by
+  rw [← not_iff_not, ← ne_eq, ← ne_eq,   ne_zero_iff_weightedOrder_finite w, coe_toNat_eq_self]
+
+/-- If the order of a formal power series `f` is finite,
+then some coefficient of weight equal to the order of `f` is nonzero.-/
+theorem exists_coeff_ne_zero_and_weightedOrder
+    (h : ↑(toNat (f.weightedOrder w)) = f.weightedOrder w) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:160]: I think we prefer coercion of bare up-arrows

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 19]
```diff
@@ -0,0 +1,488 @@
...
+smaller than the order of the power series.-/
+theorem coeff_eq_zero_of_lt_weightedOrder {d : σ →₀ ℕ} (h : ↑(weight w d) < f.weightedOrder w) :
+    coeff R d f = 0 := by
+  contrapose! h; exact weightedOrder_le w f h
+
+/-- The order of a formal power series is at least `n` if
+the `d`th coefficient is `0` for all `d` such that `weight w d < n`.-/
+theorem nat_le_weightedOrder {f : MvPowerSeries σ R} {n : ℕ}
+    (h : ∀ d, weight w d < n → coeff R d f = 0) : ↑n ≤ f.weightedOrder w := by
+  by_contra H; rw [not_le] at H
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:187]:
```suggestion
  by_contra! H
```

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 20]
```diff
@@ -0,0 +1,488 @@
...
+  apply le_weightedOrder w
+  simp (config := { contextual := true }) only
+    [coeff_eq_zero_of_lt_weightedOrder w, lt_min_iff, map_add, add_zero,
+      eq_self_iff_true, imp_true_iff]
+
+private theorem weightedOrder_add_of_weightedOrder_lt.aux {f g : MvPowerSeries σ R}
+    (H : f.weightedOrder w < g.weightedOrder w) :
+    (f + g).weightedOrder w = f.weightedOrder w := by
+  obtain ⟨n, hn⟩ := ne_top_iff_exists.mp (ne_top_of_lt H)
+  erw [← hn, weightedOrder_eq_nat]
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:251]: Why do you need `erw`?

File: Mathlib/RingTheory/HahnSeries/PowerSeries.lean (hunk 10 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/HahnSeries/PowerSeries.lean:24]: done. Anyway, this instance only appears in another PR. (I messed up the docstrings)

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean (hunk 12 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:160]: added. It is just "ext_iff".

File: Mathlib/RingTheory/MvPowerSeries/Order.lean (hunk 17 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Order.lean:122]: indeed.

File: Mathlib/RingTheory/MvPowerSeries/Order.lean (hunk 20 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Order.lean:251]: because `rw` doesn't work, even if I provide all arguments I can think of.

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Order.lean:251]: On the other hand, I noticed that `ne_top_iff_exists` furnishes something in `WithTop Nat`, while `weightedOrder_eq_nat` expected something in `Nat\infty`, so specifying the type of `hn`on line 250 was enough to have `rw` work.

**Comment by AntoineChambert-Loir** [comment]
bot fix style

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 21]
```diff
@@ -181,6 +184,14 @@ theorem coeff_comp_monomial (n : σ →₀ ℕ) : (coeff R n).comp (monomial R n
 theorem coeff_zero (n : σ →₀ ℕ) : coeff R n (0 : MvPowerSeries σ R) = 0 :=
   rfl
 
+theorem eq_zero_iff_forall_coeff_zero (f : MvPowerSeries σ R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:187]:
```suggestion
theorem eq_zero_iff_forall_coeff_zero {f : MvPowerSeries σ R} :
```
It seems the current standard.

File: Mathlib/RingTheory/PowerSeries/Order.lean [hunk 22]
```diff
@@ -146,10 +146,12 @@ theorem order_eq {φ : R⟦X⟧} {n : PartENat} :
...
   refine le_order _ _ ?_
   simp (config := { contextual := true }) [coeff_of_lt_order]
 
+@[deprecated (since := "2024-09-17")] alias le_order_add := min_order_le_order_add
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/PowerSeries/Order.lean:153]: It's probably better to update the date here.

**Review by riccardobrasca — APPROVED** [review]
A couple of uninteresting comments, but LGTM, thanks!

bors d+

**Comment by riccardobrasca** [comment]
Sorry, something went wrong in my VS Code, I have a couple of more comments, wait a little bit before merging it.

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 23]
```diff
@@ -0,0 +1,490 @@
...
+
+open ENat WithTop Finsupp
+
+variable {σ R : Type*} [Semiring R]
+
+section WeightedOrder
+
+variable (w : σ → ℕ) (f : MvPowerSeries σ R)
+
+theorem ne_zero_iff_exists_coeff_ne_zero_and_weight :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:129]: `f` can be implicit here (and in various iff lemmas below).

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 24]
```diff
@@ -0,0 +1,490 @@
...
+def weightedOrder : ℕ∞ := by
+  classical
+  exact dite (f = 0) (fun _ => ⊤) fun h =>
+    Nat.find ((ne_zero_iff_exists_coeff_ne_zero_and_weight w f).mp h)
+
+@[simp] theorem weightedOrder_zero : (0 : MvPowerSeries σ R).weightedOrder w = ⊤ := by
+  rw [weightedOrder, dif_pos rfl]
+
+theorem ne_zero_iff_weightedOrder_finite :
+    f ≠ 0 ↔ ↑(toNat (f.weightedOrder w)) = f.weightedOrder w := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:145]:
```suggestion
    f ≠ 0 ↔ (f.weightedOrder w).toNat = f.weightedOrder w := by
```
You can do the same in various places below.

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 25]
```diff
@@ -0,0 +1,490 @@
...
+    f.weightedOrder w ≤ weight w d := by
+  classical
+  rw [weightedOrder, dif_neg]
+  · simp only [ne_eq, Nat.cast_le, Nat.find_le_iff]
+    exact ⟨weight w d, le_rfl, d, h, rfl⟩
+  · exact (f.ne_zero_iff_exists_coeff_ne_zero_and_weight w).mpr ⟨weight w d, d, h, rfl⟩
+
+/-- The `n`th coefficient of a formal power series is `0` if `n` is strictly
+smaller than the order of the power series.-/
+theorem coeff_eq_zero_of_lt_weightedOrder {d : σ →₀ ℕ} (h : ↑(weight w d) < f.weightedOrder w) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:177]:
```suggestion
theorem coeff_eq_zero_of_lt_weightedOrder {d : σ →₀ ℕ} (h : weight w d < f.weightedOrder w) :
```
There are various `↑` that are not needed.

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 26]
```diff
@@ -0,0 +1,490 @@
...
+  classical
+  simp_rw [weightedOrder, dif_neg ((ne_zero_iff_weightedOrder_finite w f).mpr h), Nat.cast_inj]
+  generalize_proofs h1
+  exact Nat.find_spec h1
+
+/-- If the `d`th coefficient of a formal power series is nonzero,
+then the weighted order of the power series is less than or equal to `weight d w`.-/
+theorem weightedOrder_le {d : σ →₀ ℕ} (h : coeff R d f ≠ 0) :
+    f.weightedOrder w ≤ weight w d := by
+  classical
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:169]:
```suggestion
```

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 27]
```diff
@@ -0,0 +1,490 @@
...
+section HomogeneousComponent
+
+variable (w : σ → ℕ)
+
+/-- The weighted homogeneous components of an `MvPowerSeries f`. -/
+def weightedHomogeneousComponent (p : ℕ) : MvPowerSeries σ R →ₗ[R] MvPowerSeries σ R
+    where
+  toFun f d := if weight w d = p then coeff R d f else 0
+  map_add' f g := by
+    classical
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:460]:
```suggestion
```

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 28]
```diff
@@ -0,0 +1,490 @@
...
+  constructor
+  · intro h
+    obtain ⟨d, hd⟩ := f.exists_coeff_ne_zero_and_weightedOrder w (by simp only [h, toNat_coe])
+    exact ⟨⟨d, by simpa [h, Nat.cast_inj, ne_eq] using hd⟩,
+      fun e he ↦ f.coeff_eq_zero_of_lt_weightedOrder w (by simp only [h, Nat.cast_lt, he])⟩
+  · rintro ⟨⟨d, hd', hd⟩, h⟩
+    exact le_antisymm (hd.symm ▸ f.weightedOrder_le w hd') (nat_le_weightedOrder w h)
+
+/-- The weighted_order of the monomial `a*X^d` is infinite if `a = 0` and `weight w d` otherwise.-/
+theorem weightedOrder_monomial (d : σ →₀ ℕ) (a : R) [Decidable (a = 0)] :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:216]:
```suggestion
theorem weightedOrder_monomial (d : σ →₀ ℕ) {a : R} [Decidable (a = 0)] :
```

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 29]
```diff
@@ -0,0 +1,490 @@
...
+    · rw [coeff_eq_zero_of_lt_weightedOrder w g hj, MulZeroClass.mul_zero]
+    · rw [not_lt] at hi hj
+      simp only [Finset.mem_antidiagonal] at hij
+      exfalso
+      apply ne_of_lt (lt_of_lt_of_le hd <| add_le_add hi hj)
+      rw [← hij, map_add, Nat.cast_add]
+
+alias weightedOrder_mul_ge := le_weightedOrder_mul
+
+theorem coeff_mul_left_one_sub_of_lt_weightedOrder {R : Type*} [Ring R]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:298]: Can you create a `Ring` section here?

File: Mathlib/RingTheory/MvPowerSeries/Order.lean [hunk 30]
```diff
@@ -0,0 +1,490 @@
...
+  weightedOrder_add_of_weightedOrder_ne _ h
+
+/-- The order of the product of two formal power series
+ is at least the sum of their orders.-/
+theorem le_order_mul (f g : MvPowerSeries σ R) : f.order + g.order ≤ order (f * g) :=
+  le_weightedOrder_mul _ f g
+
+alias order_mul_ge := le_order_mul
+
+theorem coeff_mul_left_one_sub_of_lt_order {R : Type*} [Ring R]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Order.lean:431]: Can you create a `Ring` section here?

**Review by riccardobrasca — APPROVED** [review]
OK, I think I am done. Sorry for the noise.

File: Mathlib/RingTheory/PowerSeries/Order.lean (hunk 22 above)
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/PowerSeries/Order.lean:153]:
```suggestion
@[deprecated (since := "2024-11-12")] alias le_order_add := min_order_le_order_add
```

File: Mathlib/RingTheory/MvPowerSeries/Order.lean (hunk 24 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Order.lean:145]: OK, I could remove all explicit coercions.

File: Mathlib/RingTheory/MvPowerSeries/Order.lean (hunk 29 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Order.lean:297]: done

File: Mathlib/RingTheory/MvPowerSeries/Order.lean (hunk 30 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPowerSeries/Order.lean:430]: done
